US04012380
Benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-2-cephem-4-carboxylate.
A solution of 0.535 g. of benzhydryl 7-(2-thienylacetamido)-3-(1-hydroxyethyl)-2-cephem-4-carboxylate, 6 ml. of pyridine, and 2 ml. of acetic anhydride in 30 ml. of methylene chloride was refluxed at 42° C. for 2 hours. The reaction mixture was then evaporated in vacuo to dryness, and the resulting residue was dissolved in ethyl acetate and washed with 1N.HCl and brine, and dried over anhydrous sodium sulfate. Evaporation in vacuo of the dried solution to dryness provided 0.571 g. (99 percent) of the title product as a white froth. The product was identical to that prepared above via the reaction of ketene with the cephem carbinol.

reactant | benzhydryl 7-(2-thienylacetamido)-3-(1-hydroxyethyl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(C)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N2O5S2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-2-cephem-4-carboxylate | 99 percent | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(C)OC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
